US06322775B1
1-(4′-chlorophenyl)-3-ethoxy-4,5-pyrazolinedione;
1-(4′-chlorophenyl)-3-dimethylamino-4,5-pyrazolinedione; 1-(4′-chlorophenyl)-3-diethylamino-4,5-pyrazolinedione; 1-(4′-chlorophenyl)-3-acetamido-4,5-pyrazolinedione; 1-(4′-chlorophenyl)-3-carboxy-4,5-pyrazolinedione; 1-(4′-chlorophenyl)-3-methoxycarbonyl-4,5-pyrazolinedione; 1-(4′-chlorophenyl)-3-ethoxycarbonyl-4,5-pyrazolinedione;

reactant | 1-(4′-chlorophenyl)-3-dimethylamino-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)N(C)C | C11H12ClN3O2
reactant | 1-(4′-chlorophenyl)-3-diethylamino-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)N(CC)CC | C13H16ClN3O2
reactant | 1-(4′-chlorophenyl)-3-acetamido-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)NC(C)=O | C11H10ClN3O3
reactant | 1-(4′-chlorophenyl)-3-carboxy-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)C(=O)O | C10H7ClN2O4
reactant | 1-(4′-chlorophenyl)-3-methoxycarbonyl-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)C(=O)OC | C11H9ClN2O4
reactant | 1-(4′-chlorophenyl)-3-ethoxycarbonyl-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)C(=O)OCC | C12H11ClN2O4
product | 1-(4′-chlorophenyl)-3-ethoxy-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)OCC | C11H11ClN2O3
